US08026237B2
Acetazolamide (2.03 g, 9.13 mmol) was combined with 1N HCl (20 mL) and then heated at 100° C. The initial suspension became a clear solution within 3h. After cooling to 0° C. the reaction mixture was carefully neutralized by the addition of solid KOH. Upon standing precipitates had formed and were collected by filtration. The solids were dried under high vacuum to afford 5-amino-[1,3,4]thiadiazole-2-sulfonic acid amide (1.2 g, 70%) as a colorless solid; 1H NMR (DMSO-d6): δ 8.06 (s, 2H), 7.82 (s, 2H). Acetazolamide (2.03 g, 9.13 mmol) was combined with 1 N HCl (20 mL) and then heated at 100° C. The initial suspension became a clear solution within 3h. After cooling to 0° C. A.

reactant | Acetazolamide | 9.13 mmol, 2.03 g | CC(=O)NC1=NN=C(S1)S(=O)(=O)N | C4H6N4O3S2
reactant | KOH | [OH-].[K+]
solvent | HCl | 1N, 20 mL | Cl | ClH
product | 5-amino-[1,3,4]thiadiazole-2-sulfonic acid amide | 1.2 g, 70% | NC1=NN=C(S1)S(=O)(=O)N | C2H4N4O2S2
